US07498440B2
4-biphenylyl 3-bromopropyl ether
To a solution of 4-biphenylol (0.0514 g, 0.302 mmol) in acetonitrile (4 mL) was added 1,3-dibromopropane (0.310 mL, 3.05 mmol) followed by Cs2CO3 (0.154 g, 0.472 mmol). The reaction mixture was stirred for 24h and then concentrated under vacuum. The resulting residue was treated with H2O (4 mL) and extracted with DCM (8 mL). The organic layer was dried through a phase separator and concentrated under vacuum. The residue was taken up in DMSO and purified by preparatory HPLC (without TFA) to give the title compound (0.0562 g, 64.0%). EI-MS Rt (2.62 min).

reactant | 4-biphenylol | 0.302 mmol, 0.0514 g | C1(=CC=C(C=C1)O)C1=CC=CC=C1 | C12H10O
reactant | 1,3-dibromopropane | 3.05 mmol, 0.310 mL | BrCCCBr | C3H6Br2
reactant | Cs2CO3 | 0.472 mmol, 0.154 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | 4-biphenylyl 3-bromopropyl ether | 0.0562 g, 64.0% | BrCCCOC1=CC=C(C=C1)C1=CC=CC=C1 | C15H15BrO
